US04980489
2.5 g (14.4 mmol) of 2-hydroxy-1,4-naphthoquinone was added to 50 ml of acetic acid, and 5.4 g (2.03 mol times relative to 2-hydroxy-1,4-naphthoquinone) of n-dodecylaldehyde and 7.5 g (1.4 mol times relative to 2-hydroxy 1,4-naphthoquinone) of concentrated hydrochloric acid were added as catalyst, and the reaction was conducted at 85° C. for two hours. The reaction solution thus obtained was cooled to about 5° C., whereby no crystal precipitated. Therefore, the reaction solution was poured into 300 ml of water and extracted with 200 ml of benzene. This organic layer was washed twice with 150 ml of a 1% sodium carbonate aqueous solution and once with 150 ml of water and dried over anhydrous sodium sulfate. Benzene was distilled off, and the obtained oil layer was purified by silica gel column chromatography to obtain 1.97 g of 2-(1-dodecenyl)-3 hydroxy-1,4-naphthoquinone. The yield was 40.2 mol%.

reactant | 2-hydroxy-1,4-naphthoquinone | 14.4 mmol, 2.5 g | OC=1C(C2=CC=CC=C2C(C1)=O)=O | C10H6O3
reactant | hydrochloric acid | 1.4 mol, 7.5 g | Cl | ClH
reactant | acetic acid | 50 ml | C(C)(=O)O | C2H4O2
product | 2-(1-dodecenyl)-3 hydroxy-1,4-naphthoquinone | 1.97 g | C(=CCCCCCCCCCC)C=1C(C2=CC=CC=C2C(C1O)=O)=O | C22H28O3
